US08030337B2
2-(2-Methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]thiazol-8-ylidene)ethanamine
(2-Methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]thiazol-8-ylidene)acetonitrile (170 mg, 0.75 mmol) was dissolved in 2N ammonia/methanol solution (30 mL), Raney cobalt (1.7 g) was added, and the mixture was stirred at room temperature for 1 hr under a hydrogen atmosphere. The catalyst was filtered off using celite, and the filtrate was concentrated under reduced pressure to give the title compound. The obtained title compound was used for the reaction of Example 8 without further purification.

reactant | (2-Methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]thiazol-8-ylidene)acetonitrile | 0.75 mmol, 170 mg | CC=1SC2=C(N1)C=CC=1CCC(C12)=CC#N | C13H10N2S
solvent | ammonia methanol | 2N, 30 mL | N.CO
catalyst | cobalt | 1.7 g | [Co] | Co
product | 2-(2-Methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]thiazol-8-ylidene)ethanamine | CC=1SC2=C(N1)C=CC=1CCC(C12)=CCN | C13H14N2S
